US05585394
A) 4-Dimethylaminocyclohexylamine
A mixture of 68 g of 4-dimethylaminoaniline and 34 g of 5% palladium-on-charcoal in 250 ml of AcOH is hydrogenated at a temperature of 75°-90° C. under a pressure of 50 bar. The catalyst is filtered off and washed with water and the filtrate is evaporated under vacuum. The residue is taken up with water, rendered alkaline by the addition of concentrated NaOH, extracted with AcOEt and dried over Na2SO4 and the solvent is evaporated off under vacuum. The oil obtained is distilled under reduced pressure to give 16.2 g of the expected product in the form of an oil. B.p.=102°-110° C. under 20 mm Hg.

reactant | 4-dimethylaminoaniline | 68 g | CN(C1=CC=C(N)C=C1)C | C8H12N2
solvent | AcOH | 250 ml | CC(=O)O | C2H4O2
catalyst | palladium-on-charcoal | 34 g | [Pd] | Pd
product | 4-Dimethylaminocyclohexylamine | 16.2 g | CN(C1CCC(CC1)N)C | C8H18N2
